US04588749
N-[3-(4-Methylphenyl)-1-methylpropyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine
A mixture of 4-(4-Methylphenyl)butan-2-one (1.62 g) and 2-(3-chlorophenyl)-2-hydroxyethanamine (1.71 g) was refluxed in benzene under Dean & Stark conditions for 4 h. The solvent was removed under reduced pressure, replaced with methanol (100 ml) and sodium borohydride (2 g) added portionwise. The solvent was evaporated under reduced pressure, the residue partitioned between water and ether and the ether layer dried (MgSO4). Removal of the solvent gave an oil which was chromatographed on Kieselgel 60. Elution with 1% methanol-chloroform gave the title compound as an 11:89 mixture of diastereoisomers, mp 75-106 (hexane).

reactant | 4-(4-Methylphenyl)butan-2-one | 1.62 g | CC1=CC=C(C=C1)CCC(C)=O | C11H14O
reactant | 2-(3-chlorophenyl)-2-hydroxyethanamine | 1.71 g | ClC=1C=C(C=CC1)C(CN)O | C8H10ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-[3-(4-Methylphenyl)-1-methylpropyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine | CC1=CC=C(C=C1)CCC(C)NCC(C1=CC(=CC=C1)Cl)O | C19H24ClNO
